US08791288B2
Synthesis of 6-methyl-6-dispiro[4.1.4.3]tetradecyl methacrylate (Monomer 7)
With stirring under nitrogen atmosphere at 50° C., a mixture of 44.3 g of dispiro[4.1.4.3]tetradecan-6-one (which had been synthesized from spiro[4.5]decan-6-one by a method as described in A. P. Krapcho, Synthesis, 1974, p 383 and references cited therein) and 50 ml of tetrahydrofuran was added dropwise to a tetrahydrofuran solution of 0.43 mol methylmagnesium chloride (which had been prepared from 10.45 g of metallic magnesium, 150 ml of tetrahydrofuran and chloromethane), during which time the temperature was kept below 60° C. The reaction mixture was cooled to room temperature, after which a saturated ammonium chloride aqueous solution was added to stop the reaction. Through ordinary work-up of extraction, washing and drying, and subsequent vacuum distillation, there was obtained 46.3 g (yield 97%) of the target compound, 6-methyldispiro[4.1.4.3]-tetradecan-6-ol.

reactant | dispiro[4.1.4.3]tetradecan-6-one | 44.3 g | C1CCCC12C(C1(CCCC1)CCC2)=O | C14H22O
reactant | spiro[4.5]decan-6-one | C1CCCC12C(CCCC2)=O | C10H16O
reactant | methylmagnesium chloride | 0.43 mol, 150 ml, 10.45 g | C[Mg]Cl
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | 6-methyldispiro[4.1.4.3]-tetradecan-6-ol | CC1(C2(CCCC2)CCCC12CCCC2)O | C15H26O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 6-methyl-6-dispiro[4.1.4.3]tetradecyl methacrylate | 46.3 g, yield 97% | C(C(=C)C)(=O)OC1(C2(CCCC2)CCCC12CCCC2)C | C19H30O2
